US08604055B2
Synthesis of 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1-propyl-1H-indole-2-carboxylic acid bis-cyclopropylmethyl-amide
3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1-propyl-1H-indole-2-carboxylic acid (0.16 g, 0.29 mmol) and bis cyclopropylmethylamine (0.37 g, 0.29 mmol) were used to synthesize the title compound instead of using 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1H-indole-2-carboxylic acid and diethylamine in step (ii) of example 131 (0.08 g, 42%)

reactant | 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1-propyl-1H-indole-2-carboxylic acid | 0.29 mmol, 0.16 g | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(N(C3=CC=CC=C23)CCC)C(=O)O)C=C(C1)C(F)(F)F)(F)F | C24H22F6N6O2
reactant | bis cyclopropylmethylamine | 0.29 mmol, 0.37 g | C1(CC1)CNCC1CC1 | C8H15N
reactant | 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1H-indole-2-carboxylic acid | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(NC3=CC=CC=C23)C(=O)O)C=C(C1)C(F)(F)F)(F)F | C21H16F6N6O2
reactant | diethylamine | C(C)NCC | C4H11N
product | 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1-propyl-1H-indole-2-carboxylic acid bis-cyclopropylmethyl-amide | C1(CC1)CN(C(=O)C=1N(C2=CC=CC=C2C1CN(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CCC)CC1CC1 | C32H35F6N7O
